US04209621
3-Dimethylamino-2'-fluoroacrylophenone
A mixture of 25.0 g. of o-fluoroacetophenone and 35 ml. of dimethylformamide dimethylacetal is refluxed for 16 hours. Evaporation gives a thick oil which is dissolved in methylene chloride and passed through a short column of hydrous magnesium silicate. Evaporation of the solvent gives 34.2 g. of the desired compound as an oil.

reactant | o-fluoroacetophenone | FC1=C(C=CC=C1)C(C)=O | C8H7FO
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Dimethylamino-2'-fluoroacrylophenone | CN(C=CC(=O)C1=C(C=CC=C1)F)C | C11H12FNO
